US07652053B2
The trans-[3-(4-methyl-2-nitro-phenylamino)-cyclopentyl]-carbamic acid tert-butyl ester (320 mg, 0.95 mmol) and palladium on charcoal (10% Pd on carbon, 35 mg) in methanol (15 mL) were shaken at 52 psi of hydrogen pressure for 2.5 hours. The mixture was filtered through Celite®. Solvents were evaporated to yield trans-[3-(2-amino-4-methyl-phenylamino)-cyclopentyl]-carbamic acid tert-butyl ester as a pale brown oil (290 mg). This material (290 mg, 0.95 mmol) was dissolved in a solution (5 mL) of acetic acid and trimethyl orthoacetate (4:1 v/v). The mixture was stirred at 70° C. for 60 minutes and solvents were evaporated. The residue was extracted with ethyl acetate (25 mL) and saturated aqueous sodium bicarbonate (20 mL). The aqueous phase was again extracted with a portion of ethyl acetate and each organic phase was washed with brine. The extracts were combined, dried over sodium sulfate, filtered and evaporated to give trans-[3-(2,5-dimethyl-benzoimidazol-1-yl)-cyclopentyl]-carbamic acid tert-butyl ester as a light brown foam (320 mg). 1H-NMR is consistent with the assigned structure. LC-MS showed a single peak, C19H27N3O2 (m/e) calcd 329.2103, obsd 330.2 (M+H).

reactant | trans-[3-(4-methyl-2-nitro-phenylamino)-cyclopentyl]-carbamic acid tert-butyl ester | 0.95 mmol, 320 mg | C(C)(C)(C)OC(N[C@@H]1C[C@H](CC1)NC1=C(C=C(C=C1)C)[N+](=O)[O-])=O | C17H25N3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 35 mg | [Pd] | Pd
solvent | methanol | 15 mL | CO | CH4O
product | trans-[3-(2-amino-4-methyl-phenylamino)-cyclopentyl]-carbamic acid tert-butyl ester | 290 mg | C(C)(C)(C)OC(N[C@@H]1C[C@H](CC1)NC1=C(C=C(C=C1)C)N)=O | C17H27N3O2
